* Wurlitzer 200A Tremolo Oscillator Testbench
* =============================================
* Validates the twin-T oscillator standalone operation.
*
* Expected results:
*   - Sustained oscillation at approximately 5.3-6 Hz
*   - Node G (led_out) output: ~11.5 Vpp (near rail-to-rail)
*   - TR-3 DC: B~1.25V, E=0.68V, C=5.9V (shared)
*   - TR-4 DC: B=0.68V, E=0V, C=5.9V (shared)
*   - Waveform: mildly distorted sinusoidal
*
* Run:
*   cd spice/testbench && ngspice -b tb_tremolo_osc.cir

.title Wurlitzer 200A Tremolo Oscillator - Standalone Validation

* --- Include models ---
.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/tremolo_osc.cir

* --- Power supply ---
Vcc vcc 0 DC 14.5

* --- Instantiate oscillator ---
Xosc led_out vcc 0 wurli_tremolo_osc

* --- Analysis ---

* Transient: 5 seconds to capture ~25 cycles at ~5 Hz
* Let SPICE find the DC operating point (no UIC).
* Oscillator should self-start from numerical noise.
.tran 0.1m 5

.control
  run

  echo ""
  echo "========================================="
  echo "  Tremolo Oscillator DC Operating Point"
  echo "========================================="
  echo "Expected: TR-3: B~1.25V, E=0.68V, C=5.9V"
  echo "Expected: TR-4: B=0.68V, E=0V, C=5.9V"
  echo ""

  * Print key node voltages (initial DC from transient)
  * Note: TR-3 collector = TR-4 collector = led_out (shared Node G)
  print v(xosc.base3)[0] v(xosc.emit3)[0] v(led_out)[0]

  echo ""
  echo "========================================="
  echo "  Oscillation Measurements"
  echo "========================================="

  * Measure oscillation frequency from the last 3 seconds
  * (skip first 2s for startup transient)
  meas tran t1 when v(led_out)=7 rise=10
  meas tran t2 when v(led_out)=7 rise=11
  let osc_period = t2 - t1
  let osc_freq = 1 / osc_period
  echo "Oscillation period:"
  print osc_period
  echo "Oscillation frequency (target: 5.3-6 Hz):"
  print osc_freq

  * Measure peak-to-peak output
  meas tran v_max max v(led_out) from=2 to=5
  meas tran v_min min v(led_out) from=2 to=5
  let vpp = v_max - v_min
  echo "Output Vpp (target: ~11.5V):"
  print vpp

  echo ""
  echo "========================================="

  * Save waveform data
  wrdata ../output/tremolo_osc_transient.dat v(led_out) v(xosc.base3) v(xosc.emit3)

.endc

.end
